US05663154
2-Amino-6-diethylamino-9H-purine (0.47 g 2.3 mmoles) and 2',3'-dideoxy-3'-fluorouridine (0.41 g, 1.8 mmoles) were suspended in potassium phosphate buffer (10 mM) 50 ml), pH 6.8, containing 0.04% potassium azide. Purified purine nucleoside phosphorylase (5350 units) and thymidine phosphorylase (2000 unit (Krenitsky et al., Biochemistry, 20, 3615 (1981) and U.S. Pat. No. 4,381,344) were added to the reaction mixture and the suspension stirred at 45° C. After 14 days, additional purine nucleoside phosphorylase (15,700 units) and thymidine phosphorylase (4000 units) were added to the reaction mixture. After a total reaction time of 123 days, denatured protein was removed by filtration and the filtrate was applied to a column of AG1-X2 (2.5×10 cm, OH- form). After the column was washed with methanol, fractions containing product were pooled, evaporated and chromatographed on silica gel (2.5×20 cm) using dichloromethane:methanol (97:3). Solvent was removed and lyophilization yielded 2-amino-6-diethylamino-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-9H-purine.

reactant | 2-Amino-6-diethylamino-9H-purine | 2.3 mmoles, 0.47 g | NC1=NC(=C2N=CNC2=N1)N(CC)CC | C9H14N6
reactant | 2',3'-dideoxy-3'-fluorouridine | 1.8 mmoles, 0.41 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 50 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 2-amino-6-diethylamino-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-9H-purine | NC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@@H]([C@H](O1)CO)F)N(CC)CC | C14H21FN6O2
